US05492918
8-Methoxy-2-[4-(phenylaminocarbonyl-amino)piperidylcarbonyl]-chroman
A solution, cooled to 0° C., of 770 mg (3.51 mmol) of 8-methoxychromancarboxylic acid and 586 mg (3.83 mmol) of 1-hydroxybenzotriazole in 20 ml of anhydrous dichloromethane is treated with 723 mg (3.51 mmol) of dicyclohexylcarbodiimide and stirred for 5 min. A solution of 700 mg (3.19 mmol) of the compound from Example II and 0.88 ml (8.00 mmol) of N-methylmorpholine in 20 ml of dichloromethane is then added dropwise, and the reaction mixture may be stirred at room temperature for 1 h. The resultant urea is then removed by filtration, the filtrate is concentrated in vacuo and the crude product is purified by chromatography on 150 g of silica gel (dichloromethane/methanol 95:5). The product-containing fractions are collected, the solvent is evaporated in vacuo, and the residue is triturated with diethyl ether, filtered off with suction and dried in a high vacuum. 1.24 g (95%) of the title compound are obtained as colourless crystals.

reactant | 8-methoxychromancarboxylic acid | 3.51 mmol, 770 mg | COC=1C=CC=C2CCC(OC12)C(=O)O | C11H12O4
reactant | 1-hydroxybenzotriazole | 3.83 mmol, 586 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 3.51 mmol, 723 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-methylmorpholine | 8.00 mmol, 0.88 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 8-Methoxy-2-[4-(phenylaminocarbonyl-amino)piperidylcarbonyl]-chroman | 1.24 g, 95% | COC=1C=CC=C2CCC(OC12)C(=O)N1CCC(CC1)NC(=O)NC1=CC=CC=C1 | C23H27N3O4
